US06228861B1
A suspension of methyl 2-[(3,4-difluorophenyl)methylene]-3-oxo-4-methoxybutyrate (7.50 g, 27.75 mmol), O-methylisourea hemisulfate (7.17 g, 41.63 mmol, 1.5 eq.), and sodium bicarbonate (6.99 g, 83.25 mmol, 3 eq.) in ethanol (400 mL) was stirred at 50-55° C. for 6 h. The solvent was evaporated from the combined filtrates and the residue was purified by column chromatography (SiO2, EtOAc/hexane, 10%-30%) to give 5-methoxycarbonyl-1,6-dihydro-2-methoxy-4-methoxymethyl-6-(3,4-difluorophenyl)pyrimidine as a pale yellow oil (4.3 g, 47%).

reactant | methyl 2-[(3,4-difluorophenyl)methylene]-3-oxo-4-methoxybutyrate | 27.75 mmol, 7.50 g | FC=1C=C(C=CC1F)C=C(C(=O)OC)C(COC)=O | C13H12F2O4
reactant | O-methylisourea hemisulfate | 41.63 mmol, 7.17 g, 1.5 eq. | S(=O)(=O)(O)O.COC(N)=N.COC(N)=N
reactant | sodium bicarbonate | 83.25 mmol, 6.99 g, 3 eq. | C([O-])(O)=O.[Na+]
solvent | ethanol | 400 mL | C(C)O | C2H6O
product | 5-methoxycarbonyl-1,6-dihydro-2-methoxy-4-methoxymethyl-6-(3,4-difluorophenyl)pyrimidine | 4.3 g, 47% | COC(=O)C1=C(N=C(NC1C1=CC(=C(C=C1)F)F)OC)COC | C15H16F2N2O4
